US07763608B2
To a solution of 1-(4-amino-3-(2-(piperidin-1-yl)ethoxy)phenyl)pyridin-2(1H)-one (0.44 g, 1.08 mmol) in conc. HCl (3 mL) at 0° C., a solution of NaNO2 (75 mg, 1.08 mmol) in H2O (2 mL) was added dropwise. After 30 min of stirring at 0° C., NaI (0.76 g, 5.07 mmol) in H2O (2 mL) was added. After being stirred at 0° C. for 30 min, the mixture was removed to room temperature and was stirred at room temperature for 4 h. The solution was basified with 5 N NaOH to pH 10-12. The product was extracted with EtOAc, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo. The residue was purified by HPLC to give 1-(4-iodo-3-(2-(piperidin-1-yl)ethoxy)phenyl)pyridin-2(1H)-one (116 mg).

reactant | 1-(4-amino-3-(2-(piperidin-1-yl)ethoxy)phenyl)pyridin-2(1H)-one | 1.08 mmol, 0.44 g | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)OCCN1CCCCC1 | C18H23N3O2
reactant | NaNO2 | 1.08 mmol, 75 mg | N(=O)[O-].[Na+]
reactant | NaI | 5.07 mmol, 0.76 g | [Na+].[I-]
solvent | HCl | 3 mL | Cl | ClH
solvent | H2O | 2 mL | O | H2O
solvent | H2O | 2 mL | O | H2O
product | 1-(4-iodo-3-(2-(piperidin-1-yl)ethoxy)phenyl)pyridin-2(1H)-one | 116 mg | IC1=C(C=C(C=C1)N1C(C=CC=C1)=O)OCCN1CCCCC1 | C18H21IN2O2
